US05082845
10) 3-Methyl-7-(5-oxohexyl)-1-(2-oxopropyl)-xanthine (Compound 24)
This compound was prepared by alkylation of 3-methyl-7-(5-oxohexyl)-xanthine with chloroacetone in dimethylformamide in the presence of potassium carbonate at 100° C. for 1.5 hours.

reactant | 3-methyl-7-(5-oxohexyl)-xanthine | CN1C(NC(C=2N(C=NC12)CCCCC(C)=O)=O)=O | C12H16N4O3
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-Methyl-7-(5-oxohexyl)-1-(2-oxopropyl)-xanthine | CN1C(N(C(C=2N(C=NC12)CCCCC(C)=O)=O)CC(C)=O)=O | C15H20N4O4
